US06884801B1
(2-Trimethylstannyl-phenyl)-carbamic acid tert-butyl ester (Bioorganic & Medicinal Chemistry,1998, 6,811-823) (1.4 g, 3.93 mmol), 2-chloropyrazine (0.5 g, 4.33 mmol, 1,1 eq), tetrakis(triphenylphosphine)palladium (0.18 g, 0.156 mmol), and copper (I) b (0.022 g, 0.156 mmol), in 1,4-dioxane (10 mL) were heated at 110° C. for 75 min. The reaction mixture was allowed to cool at room temperature. The crude product was adsorbed onto silica gel and purified by column chromatography to give 0.65 g of tert-butyl 2-(2-pyrazinyl)phenylcarbamate.

reactant | (2-Trimethylstannyl-phenyl)-carbamic acid tert-butyl ester | 3.93 mmol, 1.4 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)[Sn](C)(C)C)=O
reactant | 2-chloropyrazine | 4.33 mmol, 0.5 g, 1,1 eq | ClC1=NC=CN=C1 | C4H3ClN2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.156 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) | [Cu+]
product | tert-butyl 2-(2-pyrazinyl)phenylcarbamate | 0.65 g | N1=C(C=NC=C1)C1=C(C=CC=C1)NC(OC(C)(C)C)=O | C15H17N3O2
